US04719200
A mixture of L-alanyl-L-prolyl-L-proline (12.83 g, 9.99 m mole), benzaldehyde (5.50 g, 51.8 m mole), zeolite "3A" (20 g), and ethanol (60 ml), was stirred overnight at room temperature. Sodium borohydride (1.609 g, 42.3 m mole) - ethanol (70 ml) suspending solution was added dropwise thereto, and after that, the mixture was stirred for 10 hours. The zeolite was removed by filtration and the filtrate was concentrated under reduced pressure. To the solution, ether was added to effect crystallization. The thus produced crystals were obtained by filtration, washed with three 50 ml portions of ether, then purified with the ion exchange resin "Dowex 50 W-X4", and then recrystallized with ethanol-ether to give N-benzyl-L-alanyl-L-prolyl-L-proline (2.10 g).

reactant | L-alanyl-L-prolyl-L-proline | 12.83 g | N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C13H21N3O4
reactant | benzaldehyde | 5.50 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | Sodium borohydride | 1.609 g | [BH4-].[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | N-benzyl-L-alanyl-L-prolyl-L-proline | 2.10 g | C(C1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C20H27N3O4
